US07935722B2
N-[6-Chloro-9-(2-nitro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Suspend sodium hydride (60%, 120 mg, 3 mmol) in anhydrous DMF (2.5 mL) under nitrogen and cool in an ice bath. Slowly add N-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (prepare essentially as described in Preparation 4)(727 mg, 2.5 mmol) dissolved in DMF (8 mL). After 10 min remove ice bath and allow the reaction to warm to ambient temperature over 1 h. Add DMF (25 mL) and cool in a dry ice/acetone bath. Add dropwise a solution of 2-nitrobenzylbromide (648 mg, 3 mmol) in DMF (2.5 mL). Stir for 18 h, allowing to warm to ambient temperature. Pour into water and extract with ethyl acetate/diethyl ether (100 mL/50 mL). Separate and wash the aqueous portion with ethyl acetate (50 mL). Combine organics and wash with 1N hydrochloric acid (2×100 mL), brine (2×100 mL), dry (MgSO4), and concentrate in vacuo to obtain a yellow solid. Purify by flash chromatography eluting with dichloromethane and then a gradient up to 10% ethyl acetate/dichlorometbane to obtain 833 mg (79%) of a yellow solid.

reactant | sodium hydride | 3 mmol, 120 mg | [H-].[Na+]
reactant | N-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | ClC=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C16H19ClN2O
reactant | 2-nitrobenzylbromide | 3 mmol, 648 mg | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-[6-Chloro-9-(2-nitro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 833 mg, 79% | ClC=1C=C2C=3CC(CCC3N(C2=CC1)CC1=C(C=CC=C1)[N+](=O)[O-])NC(C(C)C)=O | C23H24ClN3O3
